US04761483
Water was added to a stirred suspension of N-[(1,1-dimethylethoxy)carbonyl]-L-histidine (13.26 g) in ethanol (100 ml) and 1-(2,4-dichlorophenyl)-2-phenylpropen-1-one (14.5 g) until a clear solution was obtained. The clear solution was allowed to stand for 18 hours, and was then concentrated under reduced pressure to yield a foam which was triturated with hexane. The resulting mixture was filtered to yield 1-[3-(2,4-dichlorophenyl)-3-oxo-2-phenylpropyl]-N-[(1,1-dimethylethoxy)carbonyl]-L-histidine (27.7 g), as a mixture of diastereoisomers.

reactant | Water | O | H2O
reactant | N-[(1,1-dimethylethoxy)carbonyl]-L-histidine | 13.26 g | CC(C)(OC(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C | C11H17N3O4
reactant | 1-(2,4-dichlorophenyl)-2-phenylpropen-1-one | 14.5 g | ClC1=C(C=CC(=C1)Cl)C(C(=C)C1=CC=CC=C1)=O | C15H10Cl2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[3-(2,4-dichlorophenyl)-3-oxo-2-phenylpropyl]-N-[(1,1-dimethylethoxy)carbonyl]-L-histidine | 27.7 g | ClC1=C(C=CC(=C1)Cl)C(C(CN1C=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)N=C1)C1=CC=CC=C1)=O | C26H27Cl2N3O5
